US05663163
A solution of 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride (50 g) in a mixture of acetonitrile (500 ml) and water (500 ml) was adjusted to pH 6.0 with aqueous sodium bicarbonate solution. To the resulting solution was added (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetyl chloride hydrochloride (40 g) under stirring at 5° C. and the mixture was stirred at the same temperature for 1.5 hours, keeping pH 5.0-6.5 with aqueous sodium bicarbonate solution. The reaction mixture was evaporated to remove the containing organic solvent. The water solution was subjected to column chromatography on Sepabeads SP-205 (Trademark: Mitsubishi Kasei Corporation) (1.3 l). The column was washed with water (5 l) and the object compound was eluted with 15% isopropyl alcohol, and the eluate was lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (syn isomer) (51.2 g).

reactant | 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride | 50 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetyl chloride hydrochloride | 40 g | Cl.NC1=NC(=NS1)/C(/C(=O)Cl)=N/OCC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 51.2 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOCC | C19H23N9O6S2
